US07696223B2
e) [(7-Hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (39 mg, 0.10 mmole) and glycine (573 mg, 7.63 mmole) in 0.5 M sodium methoxide/methanol (10.2 ml) was refluxed for 25 h before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (40 ml) and extracted three times with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (6 ml). The suspension was extracted with ethyl acetate (2×40 ml). The organic layers were combined, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (40 mg). MS: (+) m/z 413.30 (M+1), MS: (−) m/z 411.33 (M−1).

reactant | 7-hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.10 mmole, 39 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)N1CCCCC1)N=C(S2)C2=CC=CC=C2)O | C20H21N3O3S
reactant | glycine | 7.63 mmole, 573 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 10.2 ml | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 40 mg | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)N1CCCCC1)N=C(S2)C2=CC=CC=C2 | C20H20N4O4S
